US03931205
A solution of 0.76 g of metallic sodium in 15 ml of ethanol is added to a mixture of 6.6 g of 7-cyanomethyl-5H-[1]benzopyrano[2,3-b]pyridine and 46 ml of diethyl carbonate, and the whole mixture is refluxed for 1 hour. After cooling, 5.2 g of methyl iodide is added to the reaction mixture. The temperature of the mixture is raised gradually, and the mixture is refluxed for 2 hours. The excess diethyl carbonate is distilled off, and toluene is added to the residue. The mixture is washed with water, and the toluene layer is dried. The toluene is distilled off, and the residue is recrystallized from isopropyl alcohol to give ethyl 2-cyano-2-(5H-[1]benzopyrano-[2,3-b]pyridin-7-yl)propionate melting at 119°-120°C.

reactant | sodium | 0.76 g | [Na] | Na
reactant | 7-cyanomethyl-5H-[1]benzopyrano[2,3-b]pyridine | 6.6 g | C(#N)CC=1C=CC2=C(CC=3C(=NC=CC3)O2)C1 | C14H10N2O
reactant | diethyl carbonate | 46 ml | C(OCC)(OCC)=O | C5H10O3
reactant | methyl iodide | 5.2 g | CI | CH3I
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 2-cyano-2-(5H-[1]benzopyrano-[2,3-b]pyridin-7-yl)propionate | C(#N)C(C(=O)OCC)(C)C=1C=CC2=C(CC=3C(=NC=CC3)O2)C1 | C18H16N2O3
